US05744466
To a solution containing 3-[trans-N-benzyloxycarbonyl-3-aminocyclobutyl]indol-5-yl acetamide (4.68 g 13 mmol) in toluene (10 ml) was added N,N-dimethyl acetamide dimethyl acetal (40 ml). The mixture was then heated at 120° C. for 2 hours under Dean & Stark conditions. The solution becomes very dark. The solventis evaporated under vacuum to give N-[(dimethylamino)ethanylidene]-3-[trans-3-(benzyloxycarbonylamino)cyclobutyl]-1H-indol-5-yl acetamide. Yield: 5.7 g crude.

reactant | 3-[trans-N-benzyloxycarbonyl-3-aminocyclobutyl]indol-5-yl acetamide | 13 mmol, 4.68 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C[C@H](C1)C1=CNC2=CC=C(C=C12)CC(=O)N | C22H23N3O3
reactant | N,N-dimethyl acetamide dimethyl acetal | 40 ml | COC(C)(N(C)C)OC | C6H15NO2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | N-[(dimethylamino)ethanylidene]-3-[trans-3-(benzyloxycarbonylamino)cyclobutyl]-1H-indol-5-yl acetamide | CN(C)CC=NC(CC=1C=C2C(=CNC2=CC1)[C@@H]1C[C@H](C1)NC(=O)OCC1=CC=CC=C1)=O | C26H30N4O3
